US05834468
2-[N-(2-(Benzyl)benzyl)-N-ethylamino]-5-pyridinecarboxylic acid
Methyl 2-[N-(2-(benzyl)benzyl)-N-ethylamino]-5-pyridinecarboxylate (0.9 g, 2.5 mmol) in THF (6 ml) and methanol (6 ml) were treated with 1N aqueous sodium hydroxide (7 ml), and stirred at ambient temperature overnight. The clear solution was evaporated to low bulk, treated with water and glacial acetic acid to pH4. The resultant white precipitate was stirred for 15 minutes, filtered, washed well with water, then sucked dry to yield the title product as a white solid (0.8 g, 92%).

reactant | Methyl 2-[N-(2-(benzyl)benzyl)-N-ethylamino]-5-pyridinecarboxylate | 2.5 mmol, 0.9 g | C(C1=CC=CC=C1)C1=C(CN(CC)C2=NC=C(C=C2)C(=O)OC)C=CC=C1 | C23H24N2O2
reactant | sodium hydroxide | 1N, 7 ml | [OH-].[Na+]
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | methanol | 6 ml | CO | CH4O
product | 2-[N-(2-(Benzyl)benzyl)-N-ethylamino]-5-pyridinecarboxylic acid | 0.8 g, 92% | C(C1=CC=CC=C1)C1=C(CN(CC)C2=NC=C(C=C2)C(=O)O)C=CC=C1 | C22H22N2O2
